US08232403B2
A suspension of 2-chloro-7-fluoroquinoline-3-carbaldehyde (200 mg, 0.95 mmol), N-(cyclohexylmethyl)-N-ethylamine (140 mg, 0.99 mmol) and potassium carbonate (140 mg, 1.0 mmol) in toluene (3 mL) is stirred and refluxed for 14 hours. The reaction mixture is cooled to room temperature and then diluted with water and ethyl acetate. The organic layer is washed with 1N HCl, brine, dried over magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel column chromatography to give 2-[N-(cyclohexylmethyl)-N-ethylamino]-7-fluoroquinoline-3-carbaldehyde.

reactant | 2-chloro-7-fluoroquinoline-3-carbaldehyde | 0.95 mmol, 200 mg | ClC1=NC2=CC(=CC=C2C=C1C=O)F | C10H5ClFNO
reactant | N-(cyclohexylmethyl)-N-ethylamine | 0.99 mmol, 140 mg | C1(CCCCC1)CNCC | C9H19N
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[N-(cyclohexylmethyl)-N-ethylamino]-7-fluoroquinoline-3-carbaldehyde | C1(CCCCC1)CN(CC)C1=NC2=CC(=CC=C2C=C1C=O)F | C19H23FN2O
